US07563815B2
To a solution of butyl 1-[(trans-4-tert-butylcyclohexyl)(5-methoxy-1-methyl-1H-benzimidazol-2-yl)amino]indane-5-carboxylate (0.40 g, 0.75 mmol) in 20 mL of anhydrous dichloromethane at −78° C. was slowly added BBr3 (1.0 M solution in CH2Cl2, 3.8 mL, 3.8 mmol) over 10 min. The reaction mixture was stirred at −78° C. for 30 min and then the cold bath was removed. The reaction was quenched after 20 min with saturated aqueous NaHCO3 (20 mL) and extracted with EtOAc (3×15 mL). The organic layers were combined, dried over Na2SO4 and concentrated. Chromatography afforded butyl 1-[(trans-4-tert-butylcyclohexyl)(5-hydroxy-1-methyl-1H-benzimidazol-2-yl)amino]indane-5-carboxylate. HPLC/MS: m/z=518.4 (M+1), Rt=2.45 min.

reactant | butyl 1-[(trans-4-tert-butylcyclohexyl)(5-methoxy-1-methyl-1H-benzimidazol-2-yl)amino]indane-5-carboxylate | 0.75 mmol, 0.40 g | C(C)(C)(C)[C@@H]1CC[C@H](CC1)N(C1CCC2=CC(=CC=C12)C(=O)OCCCC)C1=NC2=C(N1C)C=CC(=C2)OC | C33H45N3O3
reactant | BBr3 | 3.8 mmol, 1.0 M, 3.8 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | butyl 1-[(trans-4-tert-butylcyclohexyl)(5-hydroxy-1-methyl-1H-benzimidazol-2-yl)amino]indane-5-carboxylate | C(C)(C)(C)[C@@H]1CC[C@H](CC1)N(C1CCC2=CC(=CC=C12)C(=O)OCCCC)C1=NC2=C(N1C)C=CC(=C2)O | C32H43N3O3
